US07504508B2
(2S,4R)-[3-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-propyl]-carbamic acid methyl ester (H-64)
(2S,4R)-N-{1-[4-(3-Amino-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide (150 mg, 0.30 mmol) was dissolved in DCM (1 mL). To this solution was added TEA (36.4 mg, 0.36 mmol) followed by methyl chloroformate (34 mg, 0.36 mmol). The reaction mixture was stirred at room temperature for 18 hours. The mixture was concentrated under reduced pressure and dissolved in DCM (15 mL). The reaction mixture was washed with sat. aq. NaHCO3 (15 mL), water (15 mL) and brine (15 mL). The organic phase was dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (5/95 ethyl acetate/hexane-50/50 ethyl acetate/hexane gradient) to afford white solid product (71 mg, 52%).

reactant | (2S,4R)-N-{1-[4-(3-Amino-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide | 0.30 mmol, 150 mg | NCCCOC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1 | C28H30ClN3O3
reactant | methyl chloroformate | 0.36 mmol, 34 mg | ClC(=O)OC | C2H3ClO2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-[3-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-propyl]-carbamic acid methyl ester | 71 mg, 52% | COC(NCCCOC1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C)=O | C30H32ClN3O5
